Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ceclor / Vicodin / Nubain / metoprolol / amlodipine
 
Attending: ___
 
Chief Complaint:
Post- procedural monitoring
 
Major Surgical or Invasive Procedure:
Y-___ PLANNING STUDY
___

 
History of Present Illness:
 ___  year old female with a past medical history of HTN, 
dyslipidemia, abnormal fasting glucose, history of CAD and a 
segment IV liver mass > 6.0 cm with elevated CA ___ > 3000  
initially c/f cholangiocarcinoma but showing poorly 
differentiated adenoCA on pathology. The patient was in the SICU 
from ___ she had segment IV ?cholangiocarcinoma s/p 
chemoembolization by ___ c/b vascular injury to the LHA and 
celiac axis on ___. There was unintentional partial coiling of 
the LHA. Snaring attempts failed to retrieve the coil, resulting 
in the above injuries. At the end of the case a focal celiac 
ostia dissection was ID'd but not treated due to adequate flow 
into the liver and spleen through collaterals. No active 
extravasation was observed.  

She originally p/w several months of constipation and eventual 
LUQ pain for which she sought a colonoscopy and CT. The 
colonoscopy, while poorly prepped, was unrevealing, while the CT 
demonstrated a 6.0 x 7.3 cm segment IV liver mass that was 
difficult to separate from a thickened gallbladder fundus, a few 
subcentimeter hypodensities in the left lobe, as well as an 
increased number of porta hepatis lymph nodes, the largest being 
an 11mm caval lymph node. An ultrasound performed ___ measured 
the lesion at 8.8 x 6.3 and noted the adjacent GB wall 
thickening. A follow-up PET scan ___ noted increased 
radiouptake within the liver as well as a reported right iliac 
bone concerning for metastatic malignancy. Path biopsy on ___ 
was consistent with adenocarcinoma. 
 
In the SICU on ___, pt had pain and nausea; Ondansetron 
increased to q6 hours, IV dilaudid added for pain. She was 
transferred to ___ on ___ where her hospital course 
was complicated by persistent nausea and vomiting, RUQ pain, 
dyspnea, and poor PO intake. On ___ the patient was noted to 
be hypotensive with systolic pressures in the ___ and 
tachycardic to the 120s with an increasing oxygen requirement. 
Labs were significant for wbc 13.4 (from 12.9), lactate 2.5, Na 
132, ALT 260, AST 281, AP 414, Tb .3. ABG was ___. 
She was ordered for a CTA chest, abdomen, and pelvis, bolused 1L 
IVF, started on cipro/flagyl, and transferred to the MICU for 
further management. 
  
On arrival to the MICU, vitals were 98.4, 106/68, 121, 23, 94% 
(4L facemask. The patient reported dyspnea which had improved 
with supplemental oxygen. She denied any nausea, vomiting, 
abdominal pain, chest pain, dysuria, dizziness, other 
complaints. 

Review of systems:  
(+) Per HPI   

 
Past Medical History:
- Hair loss, on hydrochloroquine  
- Hypertension  
- Dyslipidemia  
- Pre-diabetic state with last hemoglobin A1c about 6.1%  
- CAD with stenting at age ___, followed by Dr ___ 
in  
___  
- Asthma  
- Thyroid nodule, which was biopsied in the past, and felt to be 
 
"inconclusive" per patient  
- Lacerations of right hand approximately ___ years ago.  
- Total left knee replacement  
- History of "precancerous" skin lesions, but denies history of  

melanoma  
- Depression

PSH:  
- Left TKR  
- CAD s/p stenting 
 
Social History:
___
Family History:
1) Paternal grandfather with history of gastric cancer  
2) Sister with history of fatty liver  
3) Father with history of coronary artery disease  
4) Two brothers, one with history of AFib  
5) Maternal uncle with history of bladder cancer  
6) Mother with history of ulcerative colitis and AFib  

 
Physical Exam:
Admission Physical Exam:
Vitals- T: 98.4 BP: 106/68 P: 121 R: 23 O2: 94% (4L facemask)
GENERAL: Alert, oriented, no acute distress but tired appearing  

HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Tachycardic, normal S1 S2, no murmurs, rubs, gallops  
ABD: obese, soft, non-tender, slightly distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Intact, no rashes or lesions
NEURO: No focal motor or sensory deficits, gait not observed 

Discharge Physical Exam:
98.4  132/67  96  20  97%RA 
General: alert oriented, seen eating clears, comfortable HEENT: 
no icterus; dry mouth, NGT in place, clamped  
Cardiovascular: RRR 
Respiratory/Chest: CTAB anteriorly  
Abdominal: Obese, hypoactive bowel sounds. Soft, no TTP, no 
rebound or guarding
Neurologic: AAOx 3 

 
Pertinent Results:
Admission Labs:
----------------
___ 11:11PM   TYPE-ART O2 FLOW-5 PO2-116* PCO2-42 PH-7.41 
TOTAL CO2-28 BASE XS-2 INTUBATED-NOT INTUBA
___ 11:11PM   LACTATE-1.1
___ 10:49PM   GLUCOSE-136* UREA N-11 CREAT-0.6 SODIUM-134 
POTASSIUM-3.5 CHLORIDE-98 TOTAL CO2-23 ANION GAP-17
___ 10:49PM   CALCIUM-8.6 PHOSPHATE-4.5 MAGNESIUM-2.0
___ 10:49PM   WBC-12.7* RBC-4.21 HGB-11.2* HCT-34.3* MCV-82 
MCH-26.6* MCHC-32.7 RDW-13.6
___ 10:49PM   NEUTS-88.0* LYMPHS-5.5* MONOS-5.5 EOS-0.7 
BASOS-0.2
___ 10:49PM   PLT COUNT-247
___ 10:49PM   ___ PTT-46.5* ___
___ 09:05PM   WBC-10.1 RBC-4.01* HGB-10.8* HCT-32.7* MCV-82 
MCH-26.9* MCHC-33.0 RDW-13.4
___ 09:05PM   PLT COUNT-271
___ 09:05PM   ___ PTT-31.4 ___
___ 06:00PM   GLUCOSE-227* UREA N-12 CREAT-0.7 SODIUM-134 
POTASSIUM-3.4 CHLORIDE-96 TOTAL CO2-23 ANION GAP-18
___ 06:00PM   CK(CPK)-24*
___ 06:00PM   cTropnT-<0.01
___ 06:00PM   WBC-12.1* RBC-4.39 HGB-11.8* HCT-35.6* 
MCV-81* MCH-26.9* MCHC-33.2 RDW-13.4
___ 06:00PM   PLT COUNT-267
___ 06:00PM   ___ TO  ___ TO 
___ 07:15AM   UREA N-16 CREAT-0.9
___ 07:15AM   estGFR-Using this
___ 07:15AM   ALT(SGPT)-27 AST(SGOT)-42* ALK PHOS-150* TOT 
BILI-0.4
___ 07:15AM   ALBUMIN-3.7
___ 07:15AM   WBC-11.4* RBC-4.80 HGB-12.8 HCT-38.5 MCV-80* 
MCH-26.6* MCHC-33.1 RDW-13.5
___ 07:15AM   PLT COUNT-266
___ 07:15AM   ___

Microbiology:
___. difficile DNA amplification 
assay-FINAL -negative
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ URINE URINE CULTURE-PENDING INPATIENT 
___ URINE URINE CULTURE-FINAL {YEAST} INPATIENT 

___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ URINE URINE CULTURE-FINAL {YEAST} INPATIENT 

___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ SWAB R/O VANCOMYCIN RESISTANT 
ENTEROCOCCUS-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
{ESCHERICHIA COLI}; Aerobic Bottle Gram Stain-FINAL; Anaerobic 
Bottle Gram Stain-FINAL INPATIENT 
___ 8:50 pm BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by  ___ ___ @ 
10:56 AM. 

   Anaerobic Bottle Gram Stain (Final ___:    GRAM 
NEGATIVE ROD(S). 

___ URINE URINE CULTURE-FINAL {ESCHERICHIA 
COLI, ENTEROCOCCUS SP., ENTEROCOCCUS SP.} INPATIENT .___ 
8:37 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    PRESUMPTIVE IDENTIFICATION. 
         >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      ENTEROCOCCUS SP..    >100,000 ORGANISMS/ML.. 
      ENTEROCOCCUS SP..    >100,000 ORGANISMS/ML..  ___ TYPE. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          ENTEROCOCCUS SP.
                             |          |          ENTEROCOCCUS 
SP.
                             |          |          |   
AMPICILLIN------------     8 S      <=2 S      <=2 S
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S     <=16 S     <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TETRACYCLINE----------             =>16 R     =>16 R
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
VANCOMYCIN------------                2 S        2 S

___ MRSA SCREEN MRSA SCREEN-FINAL INPATIENT 
___ MRSA SCREEN MRSA SCREEN-FINAL INPATIENT 
___ MRSA SCREEN MRSA SCREEN-FINAL INPATIENT 

Studies:
___ ___ ___ VASCULAR EMBOLIZA 
PROCEDURE:  1. Right common femoral artery access. 
2. SMA arteriogram. 
3. Celiac arteriogram. 
4. Cone beam CT right hepatic arteriogram. 
5. Cone beam CT left hepatic arteriogram. 
6. Coil embolization of the right gastric artery. 
7. Amplatzer plug embolization of the left hepatic as well as 
left gastric 
arteries. 
8. Left gastric arteriogram. 
9. Celiac axis arteriogram. 
10. Aortogram. 
11. Right common femoral arteriogram and Angio-Seal closure of 
right common 
femoral artery 
PROCEDURE DETAILS: 
Following the discussion of the risks, benefits and alternatives 
to the 
procedure, written informed consent was obtained from the 
patient. The patient was then brought to the angiography suite 
and placed supine on the exam table.
 
A pre-procedure time-out was performed per ___ protocol. 
Using palpatory and fluoroscopic guidance, the right common 
femoral artery was punctured using a micropuncture set at the 
level of the mid femoral head. A 0.018 wire was passed easily 
into the vessel lumen. A small skin incision was made over the 
needle. Then the inner dilator and wire removed and a 0.035 
___ wire was advanced under fluoroscopy into the aorta. The 
micropuncture sheath was exchanged for a 5 ___ sheath which 
was attached to a continuous heparinized saline side arm flush. 
A C2 cobra catheter was advanced over ___ wire into the 
aorta. The wire was removed and the SMA was selectively 
cannulated and small contrast injection was made to confirm 
position. SMA arteriogram was performed. The catheter was 
removed and the celiac artery was selectively cannulated and a 
small contrast injection was made to confirm position. A celiac 
arteriogram was performed. This demonstrated a replaced left 
hepatic artery from left gastric artery. To further characterize 
the anatomy, a cone beam CT was performed at the right and left 
hepatic arteries. Attempts to advance the C2 catheter and a 
glidewire into the left gastric artery were unsuccessful. The C2 
catheter was exchanged for ___ 1 glide catheter which was 
eventually advanced into the left gastric artery. Using an STC 
micro catheter and a double angled glidewire, the left hepatic 
artery was selected and an arteriogram was performed. This 
demonstrated branching of the right gastric artery from left 
hepatic artery. The micro wire and catheter were advanced into 
the left hepatic artery and then into the right gastric artery. 
3 x 3 hilum coils were deployed at this location. The first coil 
was deployed within the right gastric artery. The second coiled 
was partially deployed in the right gastric artery and partially 
in the left hepatic artery. 
Further injections of contrast demonstrated diminished flow in 
the left 
hepatic artery and therefore nitroglycerin and heparin were 
injected to 
restore flow. Multiple attempts were made to snare the left 
hepatic artery  oil were unsuccessful. In part, due to unstable 
access at the celiac artery. At that time, the patient was 
uncomfortable on the table due to prolonged procedure time and 
anesthesia was consulted. The patient was intubated and the 
procedure was continued under general anesthesia. 
Subsequently, the existing 5 ___ sheath was exchanged for a 5 
___/ 65 cm sheath which was advanced into the left hepatic 
artery over ___ wire to provide more secure access. More 
attempts were made to snare the coil out were unsuccessful. 
Injection of contrast demonstrated an extraluminal blush 
however, the patient was hemodynamically stable. At that time, 
transplant surgery was consulted and suggested close monitoring 
given the patient's stability. We decided to embolize the left 
gastric artery (trunk that provides supply to the left hepatic 
artery) to prevent potential peritoneal bleeding. A 6mm 
Amplatzer plug was used to embolize the left hepatic artery an 8 
mm Amplatzer plug was used to embolize the left gastric artery 
(trunk). A celiac arteriogram was performed and demonstrated 
occluded left gastric, patent common hepatic and splenic 
arteries but stasis of contrast at the celiac axis suggesting 
focal dissection. There was antegrade flow to the splenic and 
the right hepatic arteries. Attempts to pass a wire into the 
celiac axis to place a stent were unsuccessful. The patient 
remained hemodynamically stable. 
Aortogram was performed to delineate the anatomy. At that time, 
we decided to conclude the procedure and monitor the patient 
clinically. 
A Common femoral arteriogram was performed prior to use of a 
closure device. All catheters and wires were removed and a 6 
___ Angio-Seal device was deployed. Manual pressure was held 
until hemostasis was achieved. The patient tolerated the 
procedure. 
CONE BEAM CT: A rotational angiogram and cone beam CT were 
performed of the right and left hepatic arteries.  Multiplanar 
reformatted images were 
reconstructed, including volume-rendered images, using an 
independent 
workstation and were specifically evaluated and processed by the 
attending physician. These images were essential in 
characterizing the pathology, particularly as the hepatic artery 
and its course could not be clearly characterized on the recent 
CT. 
  
FINDINGS:    
1. Replaced left hepatic artery from left gastric artery. 
2. Right gastric artery arises from a replaced left hepatic 
artery. 
3. Partial embolized left hepatic artery from the right gastric 
artery coil. 
4. Extraluminal contrast extravasation was noted from the left 
hepatic artery  suggestive of a left hepatic artery vascular 
injury. 
5. No further forward flow in the left gastric artery post 
embolization. 
6. Focal stasis of contrast at the celiac axis was noted at the 
end of the procedure. However, there was antegrade flow in the 
splenic and right hepatic arteries. This is suggestive of a 
focal celiac axis dissection. 
  
IMPRESSION:  
  
1. Incomplete Y 90 planning study. 
2. Embolization of the left hepatic and left gastric arteries to 
manage a left 
hepatic arterial injury. 
3. Focal celiac axis dissection with preserved flow to the 
spleen and the 
right hepatic lobe. 

CXR ___:
1.  No evidence of pulmonary edema. 
2.  Bibasilar atelectasis and small pleural effusions are a 
nonspecific finding. Considering history of clinical suspicion 
for pulmonary embolism, CTA of the chest may be helpful to 
exclude this possibility if warranted clinically. 

CTA Chest/Abdomen/Pelvis ___
1. Limited evaluation of the subsegmental pulmonary arteries. No 
central pulmonary embolism. 
2. Partial collapse of the bilateral lower lobes. Nodular 
opacity in the left lower lobe superior segment, right upper 
lobe and lingula may represent aspiration or atelectasis, new 
from ___. Small bilateral pleural effusions. 
3. Heterogeneous enhancement of the liver may represent a 
combination of tumor and differential perfusion after 
embolization of the right gastric artery, left gastric artery 
and left hepatic artery. No evidence of active extravasation. 
Nonhemorrhagic perihepatic ascites is new from ___. 
4. Known celiac artery dissection (2a: 113). 
5. Fluid within the mid and lower esophagus puts the patient at 
risk for aspiration. 
 
___ Imaging PORTABLE ABDOMEN 
IMPRESSION:  
Mild gaseous dilatation of small bowel with gas throughout the 
large bowel, most compatible with ileus. 

___ Imaging ABDOMEN (SUPINE & ERECT 
IMPRESSION:  
Multiple dilated loops of small bowel, similar to prior, with 
suggestion of bowel wall thickening 

EKG:  
___: NSR, Inferior infarct, age undetermined
___: Probable atrial tachycardia, poor R wave progression. 

Discharge Labs:
---------------
___ 06:50AM BLOOD WBC-21.1* RBC-3.55* Hgb-9.3* Hct-30.5* 
MCV-86 MCH-26.2* MCHC-30.5* RDW-15.7* Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD ___
___ 06:50AM BLOOD Glucose-92 UreaN-5* Creat-0.3* Na-139 
K-3.6 Cl-102 HCO3-30 AnGap-11
___ 06:50AM BLOOD ALT-28 AST-32 AlkPhos-186* TotBili-0.3
___ 06:50AM BLOOD Calcium-7.6* Phos-2.9 Mg-1.5*
 
Brief Hospital Course:
___ year old female with a past medical history of HTN, 
dyslipidemia, abnormal fasting glucose, history of CAD and 
metastatoc cholangiocarcinoma. Hospital course complicated by 
vascular injury during chemoembolization, E.coli urosepsis and 
ileus. Per patient and family's wishes, goals of care was 
transitioned to outpatient/inpatient hospice near patient's 
family. 
  
BRIEF HOSPITAL COURSE
ACTIVE ISSUES
# Pain s/p chemoembolization c/b vascular injury to the LHA and 
celiac axis on ___. Patient underwent vascular injury during 
Y-___ planning study for chemoembolization of metastatic 
cholangiocarcinoma. This resulted in celiac artery dissection 
and embolization of left gastric artery. The ___ hospital 
course was not complicated by bleeding or inappropriate 
infarction. Interventional radiology followed patinet in house, 
and indicated no need for further ___ intervention. Patient had 
singificant pain ___ the procedure, possibly capsular pain. 
Patient was kept on tyelnol and anti emetics while in house. 
Pain well controlled with IV APAP 4 gm.

# SIRS/Urosepsis and Bacteremia: The patient was transferred to 
MICU on ___ for new onset tachycardia, hypotension, and new 
oxygen requirement. There was concern for possible bleed given 
patient's procedure history, however, CTA chest/abdomen/pelvis 
showed no active extravasation, also H/H stable. PE was ruled 
out with CTA, although CTA chest showed RUL consolidation 
concerning for aspiration. Urine culture revealed pansensitive 
E.coli; Blood cultures also grew out pansensitive E.coli. She 
was empirically started on vanc/cipro/flagyl, narrowed to 
levaquin monotherapy. Pt will complete a 10 day course.  

#Increasing Leukocytoisis. Patient treated for E. coli 
bacteremia as above, but with persistently uptrending 
leukocytosis upon arrival to floor. Ciprofloxacin switched to 
levofloxacin on the floor to cover for PNA as well as UTI. Due 
to increasing leukocytosis (but without fever), vancomycin and 
flagyl were re-added, however WBCs ___ despite these 
interventions. Decision made to suspend vancomycin and flagyl so 
as to reculture. These results were negative at time of 
discharge

# Dyspnea: The ___ hospital course was complicated by 
dyspnea that has worsened since transfer to ET. Given findings 
on CT chest as well as worsening wbc, hypotension and elevated 
lactate there was concern her dyspnea may be due to a pneumonia, 
with particular concern for aspiration. However, radiographic 
findings on CXR were not consistent with PNA, and patient was 
ultimately kept on ciprofloxacin monotherapy for UTI/bacteremia 
as above. Etiology for dyspnea still unknown at time of 
discharge. 

# Metastatic Cholangiocarcinoma to bone: Very poor prognosis has 
been relayed to family. Palliative care and radiation oncology 
were consulted in house, and it was noted that radiation would 
only be palliative for symptomatic mets. As patient is currently 
not in pain, also not able ot lie down ___ dyspnea, radiation 
oncology consult deferred. 

#Ileus: ___ hospital course complicated by ileus sustained 
in MICU, most likely secondary to narcotic use v. Y-90 
procedure. KUB ___ c/w ileus, patient with nausea/vomiting 
improved after NG tube placement ___. Patient placed on IV 
reglan and aggressive bowel regimen. Patient give 
methylnaltrexone to reverse effects of narcotics, but to no 
avail.

# CAD, HTN: Patient's home anti-hypertensives were held in the 
setting of hypotension as above.   

Transitional Issues:
-------------------
ADMIT patient to HOSPICE
OKAY to use PICC
OKAY to use NGT 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 100 mg PO BID 
2. Calcium 500 + D (calcium carbonate-vitamin D3) unknown  oral 
unknown 
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. Hydroxychloroquine Sulfate 400 mg PO DAILY 
5. Lorazepam 0.5 mg PO BID:PRN anxiety 
6. Pantoprazole 40 mg PO Q12H 
7. Rosuvastatin Calcium 20 mg PO DAILY 
8. Triamterene-HCTZ (37.5/25) 2 CAP PO DAILY 
9. Verapamil SR 240 mg PO Q24H 
10. Aspirin 162 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1. BuPROPion 100 mg PO BID 
2. Lorazepam 0.5 mg PO Q6H:PRN anxiety 
RX *lorazepam [Ativan] 0.5 mg 1 Tablet by mouth or NGT every six 
(6) hours Disp #*90 Tablet Refills:*3
3. Polyethylene Glycol 17 g PO DAILY 
4. Acetaminophen IV 1000 mg IV Q6H 
5. Bisacodyl ___ID:PRN constipation 
Pt may refuse 
6. Caphosol 30 mL ORAL QID 
7. Docusate Sodium 100 mg PO BID 
8. Lidocaine Viscous 2% 15 mL PO TID:PRN mouth pain 
9. Lorazepam 0.5 mg IV HS 
RX *lorazepam [Ativan] 2 mg/mL 0.5 (One half) mg IV at bedtime 
Disp #*20 Vial Refills:*3
10. Morphine Sulfate ___ mg IV Q2H:PRN pain 
RX *morphine 50 mg/mL 1 mg IV Every two (2) hours Disp #*20 Vial 
Refills:*3
11. Senna 8.6 mg PO BID constipation 
12. Simethicone 40-80 mg PO QID:PRN gas 
13. Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 
14. TraZODone 150 mg PO HS insomnia 
15. Metoclopramide 10 mg IV Q6H 
16. Levofloxacin 750 mg IV Q24H Duration: 4 Days 
17. Milk of Magnesia 30 mL PO Q6H:PRN abd pain/upset 
18. Pantoprazole 40 mg IV Q12H 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
--------------------
CHOLANGIOCARCINOMA

SECONDARY DIAGNOSIS
SEPTIC SHOCK AND E COLI BACTEREMIA ___ UTI
ILEUS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear ___,

___ were admitted for chemotherapy planning for your gallbladder 
cancer. Your hospital stay was complicated by a severe UTI and 
the inability to move your bowels.  Ultimately ___ were found to 
have metastatic cholangiocarcinoma and after a discussion of 
goals of care it was decided to move to hospice care.  ___ were 
discharged to hospice for further management. 
 
Followup Instructions:
___